US04252739
Employing a reaction similar to that described in Example 1 except that a hydrocarbon solvent is included in the reaction mixture, 152 g 50% aqueous potassium hydroxide solution was added dropwise to a vigorously stirred solution of 64.5 g (0.52 mol) trans 1,4-dichlorobutene-2,112.5 g (0.52 mol) di-n-butyl malonate, 4.0 g tricaprylylmethylammonium chloride and 200 cc petroleum ether. Upon workup and distillation, 47.6 g (37.1% yield) of di-n-butyl 2-vinylcyclopropane-1,1-dicarboxylate (bp 101°-104° C. (0.30 mm)); nD24° 1.4556) was obtained. Infrared and proton nmr spectra were consistent with th desired vinylcyclopropane product. Attempts to carry out the reaction in the absence of the onium compound were unsuccessful.

reactant | potassium hydroxide | 152 g | [OH-].[K+]
reactant | trans 1,4-dichlorobutene-2 | 0.52 mol, 64.5 g | C(/C=C/CCl)Cl | C4H6Cl2
reactant | di-n-butyl malonate | 0.52 mol, 112.5 g | C(CC(=O)OCCCC)(=O)OCCCC | C11H20O4
catalyst | tricaprylylmethylammonium chloride | 4.0 g | [Cl-].C(CCCCCCC)(=O)C(C(CCCCCCC)=O)(C(CCCCCCC)=O)[NH3+]
product | di-n-butyl 2-vinylcyclopropane-1,1-dicarboxylate | 47.6 g, 37.1% yield | C(=C)C1C(C1)(C(=O)OCCCC)C(=O)OCCCC | C15H24O4
